US05858394
A solution of 25 g of gestodene in 150 ml of pyridine is mixed with 75 ml of propionic anhydride, after addition of 2.5 g of 4-pyrrolidinopyridine, it is held at room temperature for 16 hours and then heated for 3 hours to 60° C. The reaction product is precipitated with 3 l of ice water, and the precipitate is filtered out, washed and taken up in dichloromethane. The organic phase is dried and concentrated by evaporation in a vacuum. The residue of 29.6 g is treated with activated carbon and recrystallized from dichloromethane/diisopropyl ether. 24.2 g of gestodene propionate with a melting point of 171.9° C. is obtained. [α]D =-117° (chloroform). UVξ238 =18500 (methanol).

reactant | gestodene | 25 g | CC[C@]12CC[C@H]3[C@H]([C@@H]1C=C[C@]2(C#C)O)CCC4=CC(=O)CC[C@H]34 | C21H26O2
reactant | propionic anhydride | 75 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | 4-pyrrolidinopyridine | 2.5 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | gestodene propionate | 24.2 g | CCC(=O)O[C@]1(C=C[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@H]34)CC)C#C | C24H30O3
